US07566736B2
A suspension of 133 mg (0.57 mmol) of ethyl 7-nitroindole-2-carboxylate in 3.84 ml of 28% aqueous ammonia is heated at 50° C. for 18 h in a stoppered glass tube. The reaction medium is filtered over sintered glass. The yellow solid obtained is washed with water and with cyclohexane and then dried under vacuum. 70 mg of 7-nitro-1H-indole-2-carboxamide are obtained in the form of a yellow solid.

reactant | ethyl 7-nitroindole-2-carboxylate | 0.57 mmol, 133 mg | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)OCC | C11H10N2O4
reactant | ammonia | 3.84 ml | N | H3N
product | 7-nitro-1H-indole-2-carboxamide | 70 mg | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)N | C9H7N3O3
